US07566735B2
N-[(4-bromophenyl)methyl]-N-methylacetamide
A solution of triethylamine (0.22 ml, 1.6 mmol) in dichloromethane (10 ml) was treated with acetyl chloride (0.08 ml, 1.10 mmol), followed by 4-bromo-N-methylbenzylamine (210 mg, 1.05 mmol). This mixture was then stirred under an atmosphere of argon for 10 minutes. The reaction mixture was washed twice with water and the organic layer was separated and dried over sodium sulphate, and the solvent removed via rotary evaporation to give a yellow oil which was purified on a 5 g sep-pak column eluting from 0-100% ethyl acetate in petroleum ether to give the title compound as a yellow oil.

reactant | triethylamine | 1.6 mmol, 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.10 mmol, 0.08 ml | C(C)(=O)Cl | C2H3ClO
reactant | 4-bromo-N-methylbenzylamine | 1.05 mmol, 210 mg | BrC1=CC=C(CNC)C=C1 | C8H10BrN
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[(4-bromophenyl)methyl]-N-methylacetamide | BrC1=CC=C(C=C1)CN(C(C)=O)C | C10H12BrNO
